US09328099B2
Step B. 2,2,2-Trifluoroethyl 4-(cyanomethylene)piperidine-1-carboxylate
2,2,2-Trifluoroethanol (1.6 mL, 22 mmol) and TEA (6.2 mL, 45 mmol) were dissolved in acetonitrile (200 mL). N,N-disuccinimidyl carbonate (8.6 g, 34 mmol) was added and the resulting mixture was stirred at ambient temperature for 90 minutes. 4-(Cyanomethylidene)piperidinium trifluoroacetate (5.3 g, 23 mmol) in DMSO (10 mL) was then added, followed by TEA (6.2 mL, 45 mmol). The resulting mixture was stirred at 50° C. for 16 hours. The reaction mixture was cooled to ambient temperature, diluted with EtOAc and washed sequentially with saturated NaHCO3 (aq) and water. The organic layer was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-5% MeOH in DCM) to afford the title compound. LRMS (ESI) calc'd for C10H11F3N2O2 [M+H]+: 249. Found: 249.

reactant | 2,2,2-Trifluoroethanol | 22 mmol, 1.6 mL | FC(CO)(F)F | C2H3F3O
reactant | N,N-disuccinimidyl carbonate | 34 mmol, 8.6 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 4-(Cyanomethylidene)piperidinium trifluoroacetate | 23 mmol, 5.3 g | FC(C(=O)[O-])(F)F.C(#N)C=C1CC[NH2+]CC1
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,2,2-Trifluoroethyl 4-(cyanomethylene)piperidine-1-carboxylate | C(#N)C=C1CCN(CC1)C(=O)OCC(F)(F)F | C10H11F3N2O2
